US06677378B2
A. 2-(3,4-Dichlorophenoxy)-5-Fluoro-Benzoic Acid
Under N2 in a round-bottomed flask fitted with a reflux condenser and magnetic stirrer were placed 6.37 g (19.55 mmol) of cesium carbonate and 3.2 g (19.55 mmol) of 3,4-dichlorophenol (both from Aldrich Chem. Co., Milwaukee, Wis.) in 60 mL of anhydrous toluene. After stirring the mixture for 5 min., 89 mg (0.24 mmol) of copper (II) trifluoromethansulfonate (copper triflate) and 0.26 g (9.78 mmol) of 5-fluoro-2-iodobenzoic acid (prepared according to the method in Collection of Czechoslovakian Chemical Communications, 1975, vol. 40, p728) were added and the mixture was heated to reflux overnight. Progress of the reaction was monitored using thin layer chromatography (tlc), eluting with CHCl3:CH3OH:AcOH (9:1:0.5). After allowing the reaction to cool to room temperature, the mixture was diluted with water and EtOAc; the aqueous layer was acidified with 6 N HCl and re-extracted with additional EtOAc. The organic layers were combined, washed with H2O and saturated NaCl and dried over MgSO4. Removal of the solvent in vacuo gave a dark brown colored oil, 2.6 g, as a mixture of title product and unreacted 5-fluoro-2-iodobenzoic acid.

reactant | cesium carbonate | 19.55 mmol, 6.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,4-dichlorophenol | 19.55 mmol, 3.2 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 5-fluoro-2-iodobenzoic acid | 9.78 mmol, 0.26 g | FC=1C=CC(=C(C(=O)O)C1)I | C7H4FIO2
reactant | HCl | 6 N | Cl | ClH
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper (II) trifluoromethansulfonate | 0.24 mmol, 89 mg | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
product | 2-(3,4-Dichlorophenoxy)-5-Fluoro-Benzoic Acid | ClC=1C=C(OC2=C(C(=O)O)C=C(C=C2)F)C=CC1Cl | C13H7Cl2FO3
